US07968746B2
6-Hydroxy-N-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide (2.38 g, 8.11 mmol) was dissolved into 150 mL AcCN, cooled to 0° C. and treated with 9.75 g CAN (17.84 mmol) in 30 mL H2O over 20 minutes. EtOAc (150 mL) and H2O (20 mL) were then added, layers separated and the organic phase washed 21×20 mL H2O. The aqueous phase was back extracted 4×50 mL EtOAc and the combined organics washed with saturated NaCl, dried over Na2SO4 and concentrated to a yellow powder. Flash chromatography yielded 1.68 g of 2-hydroxy-N-(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow solid.

reactant | 6-Hydroxy-N-(2-hydroxyethyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 8.11 mmol, 2.38 g | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCO)C)C | C16H23NO4
reactant | AcCN | 150 mL | C(=O)(C)C#N | C3H3NO
reactant | CAN | 17.84 mmol, 9.75 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 30 mL | O | H2O
solvent | H2O | 20 mL | O | H2O
product | 2-hydroxy-N-(2-hydroxyethyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 1.68 g | OC(C(=O)NCCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C16H23NO5
